US06759428B2
To a 0° C. solution of diethanolamine (1.9 ml, 20 mmol) in 50 ml of THF was added benzyloxycarbonyloxysuccinimide (5.0 g, 20 mmol) followed by the slow addition of a solution of sodium carbonate (3.2 g, 30 mmol) in 50 ml of water. The reaction was stirred at 0° C. for 2 hours, diluted with 50 ml of water, and the majority of the THF was removed under vacuum. The reaction mixture was extracted with ethyl acetate (2×75 ml), washed with brine and dried over sodium sulfate. The solvent was concentrated and the residue was purified by SiO2 chromatography (250 g SiO2, 8% MeOH/methylene chloride) to give N-Cbz-diethanolamine (4.25 g) as a clear oil.

reactant | diethanolamine | 20 mmol, 1.9 ml | N(CCO)CCO | C4H11NO2
reactant | benzyloxycarbonyloxysuccinimide | 20 mmol, 5.0 g | C(C1=CC=CC=C1)OC(=O)OC1C(=O)NC(C1)=O | C12H11NO5
reactant | sodium carbonate | 30 mmol, 3.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | N-Cbz-diethanolamine | 4.25 g | C(=O)(OCC1=CC=CC=C1)N(CCO)CCO | C12H17NO4
